US09145413B2
a. 2-(5-Fluoropyridin-2-yl)-N,N-dimethylhydrazine carboxamide (Intermediate 59a)
A solution of (5-fluoro-pyridin-2-yl)-hydrazine (500 mg, 3.93 mmol), dimethylcarbamyl chloride (505 mg, 4.72 mmol) and DIPEA (1.01 g, 7.86 mmol) in DCM (20 mL) was stirred at reflux for 16 h. The reaction mixture was applied to an SCX-2 cartridge (25 g) and washed with MeOH. The product was eluted with 2M NH3 in MeOH; concentration in vacuo and then trituration with diethyl ether gave the title compound (600 mg, 77%). 1H NMR (400 MHz, CDCl3): 2.99 (6H, s), 6.46 (2H, m), 6.75 (1H, dd, J 9.1, 3.5), 7.22-7.32 (1H, m), 8.03 (1H, d, J 2.7).

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 3.93 mmol, 500 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | dimethylcarbamyl chloride | 4.72 mmol, 505 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | DIPEA | 7.86 mmol, 1.01 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Fluoropyridin-2-yl)-N,N-dimethylhydrazine carboxamide | 600 mg, 77% | FC=1C=CC(=NC1)NNC(=O)N(C)C | C8H11FN4O
